US06969725B2
c] (S)-4-Benzyl-3-((2S,3R)-3-{2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-3-hydroxy-2-methoxy-propionyl)-oxazolidin-2-one
1.8 g (7.21 mmol) (S)-4-Benzyl-3-methoxyacetyl-oxazolidin-2-one (for the preparation of (S)-4-benzyl-3-methoxyacetyl-oxazolidin-2-one see: D. Hunziker, N. Wu, K. Kenoshita, D. E. Cane, C. Khosla, Tetrahedron Lett. 1999, 40, 635-638) were dissolved under an argon atmosphere in 10 ml CH2Cl2 and treated with 1.44 ml (8.42 mmol) Hünig's base. After cooling to −78° C., nBu2BOTf was added slowly (7.21 ml of 1M solution in CH2Cl2) and enolborinate formation allowed to proceed for 0.25 hours at −78° C. and for 1 hour at 0° C. After recooling to −78° C., a solution of 2.8 g (6 mmol) of 2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde in 10 ml CH2Cl2 was added via dropping funnel during 90 minutes and the mixture kept for 95 minutes at −78° C. and for one hour at 0° C. Pouring onto crashed ice, twofold extraction with AcOEt, washing with brine and water, drying over magnesium sulfate, and evaporation of the solvents, followed by chromatography (silica gel, heptane/AcOEt) left finally 2.905 g (67%) of the title compound as a yellow oil. According to 1H-NMR spectroscopy, one of the four isomers is strongly predominating. The configuration was tentatively assigned as 2S,3R according to D. Haigh et al., Tetrahedron: Asymmetry 1999, 10, 1353-1367.

reactant | (S)-4-Benzyl-3-methoxyacetyl-oxazolidin-2-one | 7.21 mmol, 1.8 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COC)=O | C13H15NO4
reactant | Hünig's base | 8.42 mmol, 1.44 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | nBu2BOTf | B(CCCC)(CCCC)OS(=O)(=O)C(F)(F)F | C9H18BF3O3S
reactant | 2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | 6 mmol, 2.8 g | C[Si](OC1=C(C=O)C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)(C(C(C)C)(C)C)C | C27H35NO4Si
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-Benzyl-3-((2S,3R)-3-{2-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-3-hydroxy-2-methoxy-propionyl)-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)O[Si](C(C(C)C)(C)C)(C)C)OC)=O | C40H50N2O8Si
